US04377580
A mixture of iron (113.9 g), conc. hydrochloric acid (57 ml) and water (2.3 liters) was stirred at 95° C. for 20 minutes. To the mixture was added during 10 minutes 4-amino-6-nitroquinazoline (114.1 g). The reaction mixture was stirred at 95° C. for an hour and a half and then filtered. The filter cake was washed with hot water. The combined filtrate and washings were concentrated under reduced pressure to give a residue, to which was added a small volume of ethanol to give precipitates. The precipitates were separated by filtration and dried to give 4,6-diaminoquinazoline hydrochloride (94.8 g). The same compound (4.3 g) was recovered from the mother liquor in the same manner as mentioned above.

reactant | hydrochloric acid | 57 ml | Cl | ClH
reactant | water | 2.3 liters | O | H2O
reactant | 4-amino-6-nitroquinazoline | 114.1 g | NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H6N4O2
catalyst | iron | 113.9 g | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
product | 4,6-diaminoquinazoline hydrochloride | 94.8 g | Cl.NC1=NC=NC2=CC=C(C=C12)N | InChI=1S/C8H8N4.ClH/c9-5-1-2-7-6(3-5)8(10)12-4-11-7;/h1-4H,9H2,(H2,10,11,12);1H
